US07238808B2
3-Bromo-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide
Prepared by general procedure III from 2-amino-2-methyl-1-propanol (8.91 g, 100 mmol) and commercially available 3-bromobenzenesulfonyl chloride (2.88 mL, 20 mmol) to give the title compound as a white solid (5.47 g, 89%). MS (ISN) 306.1 [(M−H)−], 308.2 [(M+2−H)−]. mp 138° C.

reactant | 2-amino-2-methyl-1-propanol | 100 mmol, 8.91 g | NC(CO)(C)C | C4H11NO
reactant | 3-bromobenzenesulfonyl chloride | 20 mmol, 2.88 mL | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
product | 3-Bromo-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide | 5.47 g, 89% | BrC=1C=C(C=CC1)S(=O)(=O)NC(CO)(C)C | C10H14BrNO3S
